data/mechanism_extracts/Tetrahedron/10.1016_j.tet.2022.132651.json
{"doi": "10.1016_j.tet.2022.132651", "journal": "Tetrahedron", "is_review": false, "rxn_class_summary": "Electrochemical fluorosulfonylation of 1,1-disubstituted alkenes with sulfonyl hydrazides and Et3N·HF to give vicinal fluorinated sulfones", "mechanism_family": ["radical_anodic", "radical_polar_crossover"], "electrochemical_role": "Anodic oxidation of sulfonyl hydrazide (after deprotonation) to generate a sulfonyl radical (with N2 release); subsequent anodic oxidation of the benzylic radical adduct to a benzylic cation; cathodic reduction generates H2", "key_intermediates": [{"name": "sulfonyl radical A (e.g., tosyl radical) from anodic oxidation/deprotonation/N2 loss of sulfonyl hydrazide", "smiles": "[O]S(=O)(c1ccc(C)cc1)", "role": "reactive"}, {"name": "benzylic radical B from sulfonyl radical addition to 1,1-diarylalkene", "smiles": "[CH]([Ph])(c1ccccc1)CS(=O)(=O)c1ccc(C)cc1", "role": "reactive"}, {"name": "benzylic cation C from anodic oxidation of radical B", "smiles": "[C+](c1ccccc1)(c1ccccc1)CS(=O)(=O)c1ccc(C)cc1", "role": "reactive"}, {"name": "vicinal fluorinated sulfone product 4 after fluoride capture", "smiles": "FC(c1ccccc1)(c1ccccc1)CS(=O)(=O)c1ccc(C)cc1", "role": "transient"}, {"name": "alkenyl sulfone (tested as putative intermediate, ruled out)", "smiles": "O=S(=O)(c1ccc(C)cc1)/C=C(\\c1ccccc1)c1ccccc1", "role": "off_pathway"}], "electron_flow": "At the anode, the sulfonyl hydrazide is deprotonated and oxidized with loss of N2 to give a sulfonyl radical A, which adds to the alkene to form benzylic radical B; B is further oxidized at the anode to benzylic cation C, which is trapped by fluoride from Et3N·HF to deliver product 4, while H+ is reduced at the cathode to H2.", "rate_determining_step": null, "probe_reagents": [{"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Sulfonyl-BHT adduct isolated in 41%; product 4aa yield drops to 40%, supporting sulfonyl radical intermediacy"}, {"name": "cyclopropyl-substituted alkene 1y (radical clock)", "smiles": null, "purpose": "radical_clock", "observation": "Cyclopropane ring-opened product 4aa formed in 25%; closed product 4ya 0%, consistent with radical addition pathway"}, {"name": "alkenyl sulfone 1z (putative intermediate test)", "smiles": null, "purpose": "intermediate_trap", "observation": "Under standard conditions gave 0% of 4aa, excluding hydrofluorination of alkenyl sulfone as the pathway"}, {"name": "cyclic voltammetry of 1a, 2a, 3a and mixtures", "smiles": null, "purpose": "redox_probe", "observation": "Sulfonyl hydrazide 2a oxidizes at 1.92 V (and 2.41 V) vs Ag/AgCl, lower than 1,1-diphenylethylene 1a (2.26 V), indicating preferential anodic oxidation of the hydrazide"}], "evidence_types_used": ["radical_clock", "intermediate_trap_BHT", "cyclic_voltammetry", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "An alternative pathway via initial formation of an alkenyl sulfone followed by hydrofluorination was explicitly tested with 1z and ruled out (0% product). CV data establish that the sulfonyl hydrazide, not the alkene, is oxidized first at the anode."}
